US08486968B2
(a) 2-(2,2-Difluoro-ethoxy)-6-amino-5-nitro-nicotinic acid
A mixture of methyl-2-(2,2-difluoro-ethoxy)-6-methylamino-5-nitro-nicotinate (9.1 g, 32 mmol, prepared according to WO2010/34799), THF (100 mL), water (60 mL) and 1N aq. NaOH-solution (60 mL) is stirred for 3 h at rt, then the mixture is concentrated i.vac. The water phase is washed with Et2O, 60 mL 1N HCl solution is added and the resulting precipitate is collected and dried.

reactant | methyl-2-(2,2-difluoro-ethoxy)-6-methylamino-5-nitro-nicotinate | 32 mmol, 9.1 g | COC(C1=C(N=C(C(=C1)[N+](=O)[O-])NC)OCC(F)F)=O | C10H11F2N3O5
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 60 mL | [OH-].[Na+]
solvent | water | 60 mL | O | H2O
product | 2-(2,2-Difluoro-ethoxy)-6-amino-5-nitro-nicotinic acid | FC(COC1=C(C(=O)O)C=C(C(=N1)N)[N+](=O)[O-])F | C8H7F2N3O5
